US06413989B1
At atmospheric pressure and 20° C., a solution of 1 g of (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinyl-methyl]-3-(4-benzyloxyphenyl)oxazolidin-2-one [obtainable by reaction of (5R)-(−)-5-(methanesulfonyloxy-methyl) -3-p-benzyloxyphenyloxazolidin-2-one with 4- (4-fluorobenzyl)piperidine hydrochloride] in 25 ml of methanol is hydrogenated over 1 g of Raney nickel. The mixture is filtered and the solvent is removed, giving (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinylmethyl]-3-(4-hydroxyphenyl) oxazolidin-2-one,

reactant | (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinyl-methyl]-3-(4-benzyloxyphenyl)oxazolidin-2-one | 1 g | FC1=CC=C(CC2CCN(CC2)C[C@H]2CN(C(O2)=O)C2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C29H31FN2O3
solvent | methanol | 25 ml | CO | CH4O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | (5S)-(−)-5-[4-(4-fluorobenzyl)-1-piperidinylmethyl]-3-(4-hydroxyphenyl) oxazolidin-2-one | FC1=CC=C(CC2CCN(CC2)C[C@H]2CN(C(O2)=O)C2=CC=C(C=C2)O)C=C1 | C22H25FN2O3
